US06632826B1
A solution of 4-benzyl-5-(6-ethoxycarbonyl-cyclohex-3-enylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (4.72 g) in ethanol (80 ml) was treated with a solution of sodium hydroxide (0.82 g) in water (15 ml) and the resulting solution refluxed for 18 hours. The ethanol was then evaporated and the residue partitioned between water and ethyl acetate. The organic solution was washed with saturated sodium chloride solution, dried (anhydrous magnesium sulfate) and evaporated. The residue was subjected to flash chromatography on silica gel eluting with hexane/ethyl acetate (2:1) to afford 4-benzyl-5-(6-carboxy-cyclohex-3-enylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (3.32 g, 75%) Mass spectrum 430 [M+H]+.

reactant | 4-benzyl-5-(6-ethoxycarbonyl-cyclohex-3-enylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 4.72 g | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1CC=CCC1C(=O)OCC)(C)C | C27H39NO5
reactant | sodium hydroxide | 0.82 g | [OH-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 4-benzyl-5-(6-carboxy-cyclohex-3-enylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 3.32 g, 75% | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1CC=CCC1C(=O)O)(C)C | C25H35NO5
